US04314065
A mixture of 2-chlorobenzimidazole (1.0 g), 4-(N-methylamino)phenol (1.13 g) and acetonitrile/water (1:1) was heated under reflux for a period of 5 hours. The mixture was concentrated, made basic with dilute ammonium hydroxide and the solid was collected. The product was recrystallised from ethanol to give 4-[N-methyl-N-(2-benzimidazolyl)amino]phenol (0.92 g) as colourless crystals, mp>260° C.

reactant | 2-chlorobenzimidazole | 1.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-(N-methylamino)phenol | 1.13 g | CNC1=CC=C(C=C1)O | C7H9NO
solvent | acetonitrile water | C(C)#N.O
product | 4-[N-methyl-N-(2-benzimidazolyl)amino]phenol | 0.92 g | CN(C=1NC2=C(N1)C=CC=C2)C2=CC=C(C=C2)O | C14H13N3O
